US07807693B2
(a) N-methyl-N-(4-nitrophenylmethyl)-2,2-dimethoxy-ethylamine
A mixture of 1.56 g N-methyl-N-(4-nitrobenzyl)amine in 40 ml THF is combined with 2.85 ml of a 45% solution of 2,2-dimethoxyacetaldehyde in tert.-butylmethylether. Then 24 mg of p-TsOHx H2O and 1.12 ml glacial acetic acid are added and the mixture is stirred for 2 h. Then 1.81 g of sodium cyanoborohydride are added batchwise and the mixture is stirred for another 2 h. 5 ml of water are added to the mixture, then it is evaporated down to approx. 30% of the volume, the residue is combined with water and extracted 3× with EtOAc. The combined organic phases are dried with Na2SO4, concentrated and the crude product is purified by chromatography (Alox; petroleum ether/EtOAc 8/2->7/3).

reactant | N-methyl-N-(4-nitrobenzyl)amine | 1.56 g | CNCC1=CC=C(C=C1)[N+](=O)[O-] | C8H10N2O2
reactant | 2,2-dimethoxyacetaldehyde | COC(C=O)OC | C4H8O3
reactant | sodium cyanoborohydride | 1.81 g | C(#N)[BH3-].[Na+]
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | tert.-butylmethylether | C(C)(C)(C)OC | C5H12O
solvent | water | 5 ml | O | H2O
solvent | acetic acid | 1.12 ml | C(C)(=O)O | C2H4O2
solvent | H2O | 24 mg | O | H2O
product | N-methyl-N-(4-nitrophenylmethyl)-2,2-dimethoxy-ethylamine | CN(CC1=CC=C(C=C1)[N+](=O)[O-])CC(OC)OC | C12H18N2O4
